US07825253B2
N2-(2-Methoxy-benzyl)-N5-methyl-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine
The title compound, MS: m/e=385.0 (M+H+), was prepared in accordance with the general method of example 1 from 5-bromo-2-chloroquinoline, 2-methoxybenzylamine and N-methyl-3-picolylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 2-methoxybenzylamine | COC1=C(CN)C=CC=C1 | C8H11NO
reactant | N-methyl-3-picolylamine | CNCC=1C=NC=CC1 | C7H10N2
product | N2-(2-Methoxy-benzyl)-N5-methyl-N5-pyridin-3-ylmethyl-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)N(CC=2C=NC=CC2)C)C=CC=C1 | C24H24N4O
